US06743785B2
4-(tert-Butyldiphenylsilyloxymethyl)-1,2,3,4-tetrahydroquinoline
To a solution of 4-(hydroxymethyl)-1,2,3,4-tetrahydroquinoline (16.07 g, 0.098 mol) in dichloromethane (100 mL) at 0° C. were added sequentially triethylamine (16.3 mL, 0.12 mol), tert-butyldiphenylsilylchloride (28.4 g, 0.103 mol) and 4-(dimethylamino)pyridine (0.6 g, 4.9 mmol). After 30 minutes, the solution was warmed to room temperature and stirred for another 2 hours. The reaction mixture was diluted with dichlormethane (200 mL), washed with water (50 mL) and saturated aqueous sodium chloride solution (50 mL). The organic layers were collected, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to provide 22.1 g (56%) of the desired compound.

reactant | 4-(hydroxymethyl)-1,2,3,4-tetrahydroquinoline | 0.098 mol, 16.07 g | OCC1CCNC2=CC=CC=C12 | C10H13NO
reactant | triethylamine | 0.12 mol, 16.3 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldiphenylsilylchloride | 0.103 mol, 28.4 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 4.9 mmol, 0.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichlormethane | 200 mL | ClCCl | CH2Cl2
product | 4-(tert-Butyldiphenylsilyloxymethyl)-1,2,3,4-tetrahydroquinoline | 22.1 g, 56% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1CCNC2=CC=CC=C12 | C26H31NOSi
